US04138292
[L-arginine deiminase activity is indicated in terms of micromoles of L-citrullin which are produced by reaction with L-arginine. The reaction with L-arginine is conducted by adding 10 g of the immobilized preparation to an aqueous 0.5 M L-arginine hydrochloride solution (pH 6.0) containing 0.01% of triethanolamine laurylsulfate, and shaking the mixture at 37° C. for one hour. The amount of L-citrullin produced is assayed colorimetrically by using diacetylmonooxim as a coloring agent.]

reactant | L-arginine | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | L-arginine hydrochloride | 0.5 M, pH 6.0 | Cl.N[C@@H](CCCNC(N)=N)C(=O)O
reactant | triethanolamine laurylsulfate | C(CCCCCCCCCCC)OS(=O)(=O)O.N(CCO)(CCO)CCO
product | L-citrullin | N[C@@H](CCCNC(=O)N)C(=O)O | C6H13N3O3
